US07012075B2
A mixture of 1-(5-bromo-2-chlorophenyl)-N-(cyanomethyl)piperidine-2-carboxamide (125 mg, 0.35 mmol), phenylboronic acid (64 mg, 0.53 mmol), PdCl2(dppf) (29 mg, 0.035 mmol) and 2 N Na2CO3 (0.5 mL, 1.1 mmol) in DMF (3.5 mL) was degassed and then heated to 110° C. for 4 h. The mixture was cooled and partitioned between water and ethyl acetate. The aqueous layer was extracted with ethyl acetate (3×) and the combined organic layers were dried over Na2SO4 and concentrated. Purification by flash chromatography (50% Et2O/hexanes) afforded 1-(4-chloro-1,1′-biphenyl-3-yl)-N-(cyanomethyl)piperidine-2-carboxamide.

reactant | 1-(5-bromo-2-chlorophenyl)-N-(cyanomethyl)piperidine-2-carboxamide | 0.35 mmol, 125 mg | BrC=1C=CC(=C(C1)N1C(CCCC1)C(=O)NCC#N)Cl | C14H15BrClN3O
reactant | phenylboronic acid | 0.53 mmol, 64 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 1.1 mmol, 2 N, 0.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 3.5 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | 0.035 mmol, 29 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(4-chloro-1,1′-biphenyl-3-yl)-N-(cyanomethyl)piperidine-2-carboxamide | ClC1=C(C=C(C=C1)C1=CC=CC=C1)N1C(CCCC1)C(=O)NCC#N | C20H20ClN3O
